US06093718
In a similar process as described in Example 39 using 1-(2-ethylpyrimidin-4-yl)-4-methyl-piperidine-4-carboxylic acid and 1-(4-bromophenylsulphonyl)-piperazine the following was produced 1-(4-bromophenylsulphonyl)-4-[1-(2-ethylpyrimidin-4-yl)-4-methyl-piperidin-4-ylcarbonyl]piperazine.

reactant | 1-(2-ethylpyrimidin-4-yl)-4-methyl-piperidine-4-carboxylic acid | C(C)C1=NC=CC(=N1)N1CCC(CC1)(C(=O)O)C | C13H19N3O2
reactant | 1-(4-bromophenylsulphonyl)-piperazine | BrC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C10H13BrN2O2S
product | 1-(4-bromophenylsulphonyl)-4-[1-(2-ethylpyrimidin-4-yl)-4-methyl-piperidin-4-ylcarbonyl]piperazine | BrC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1(CCN(CC1)C1=NC(=NC=C1)CC)C | C23H30BrN5O3S
